US08039463B2
HOBt (72 mg, 0.53 mmol) and DMAP (81 mg, 0.66 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (150 mg, 0.44 mmol) in DMF (2 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (102 mg, 0.53 mmol) followed by 4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenylamine (77 mg, 0.44 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organics were washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using basic alumina (80% ethyl acetate in hexane) to afford 40 mg (20%) of N-[4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 502.17 (M+1)+, 94.56%, 1H NMR: (DMSO-d6): δ 10.5 (d, 1H), 7.92 (m, 2H), 7.8 (m, 4H), 7.68 (t, 1H), 7.56 (m, 1H), 3.68 (m, 7H), 3.44 (m, 2H), 3.18 (m, 1H), 3.08 (m, 1H), 2.58 (s, 3H).

reactant | HOBt | 0.53 mmol, 72 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.44 mmol, 150 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenylamine | 0.44 mmol, 77 mg | CC1=NN=C(O1)C1=CC=C(C=C1)N | C9H9N3O
catalyst | DMAP | 0.66 mmol, 81 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 40 mg, 20% | CC1=NN=C(O1)C1=CC=C(C=C1)NC(CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C24H22F3N5O4
